US04743296
Preparation of 9b-allylthio-3-isopropyl-3-methyl-1H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H,9bH)-dione
Under a nitrogen atmosphere, 7.8 g of 3-isopropyl-3-methyl-3H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5-dione in 50 ml of tetrahydrofuran are stirred together with 3.5 ml of allylmercaptan and 4.9 ml of triethylamine. The mixture is stirred further for 15 hours at room temperature. In order to work up the reaction mixture, 1.2 ml of formic acid are added and most of the solvent is evaporated off. The residue is chromatographed through a column of silica gel eluted with a 1:1 mixture of ethyl acetate and hexane. The eluant is evaporated off off, leaving a residue which crystallises. Yield: 3.2 g of the title product; m.p.: 126°-138° C.

reactant | 3-isopropyl-3-methyl-3H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5-dione | 7.8 g | C(C)(C)C1(C(N=C2N1C(C=1C2=NC=CC1)=O)=O)C | C13H13N3O2
reactant | allylmercaptan | 3.5 ml | C(C=C)S | C3H6S
reactant | triethylamine | 4.9 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 1.2 ml | C(=O)O | CH2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 9b-allylthio-3-isopropyl-3-methyl-1H-imidazo[1',2':1,2]pyrrolo[3,4-b]pyridine-2,5(3H,9bH)-dione | C(C=C)SC12N(C(C=3C1=NC=CC3)=O)C(C(N2)=O)(C)C(C)C | C16H19N3O2S
